US05677459
5-(2-Hydroxy-2-methyl-3-butynyl)-3-(1-tert-butyloxycarbonyl-2-pyrrolidinyl)pyridine (495 mg, 1.5 mmol) was dissolved in toluene (30 mL) and catalytic sodium hydride (10 mg) was added. The solution was heated until several milliliters of toluene-acetone mixture was removed by distillation. The mixture was cooled to 25° C. and water (20 mL) and ethyl acetate (40 mL) were added. The organic phase was separated and the aqueous layer extracted with ethyl acetate (2×40 mL) and the combined organic extracts were washed with brine (20 mL), dried (MgSO4) and concentrated in vacuo. The crude product was purified by silica gel column chromatography with ethyl acetate:hexane (1:3) as eluant to afford 5-ethynyl-3-(1-tert-butyloxycarbonyl-2-pyrrolidinyl)pyridine as an oil (250 mg, 61%). LRMS (EI) m/e 217 (M+ +H--isobutylene), 216 (M+ --isobutylene); 1H NMR (CDCl3, 300 MHz): δ 8.59 (b-s, 1H), 8.42 (d, J=1.5 Hz, 1H), 7.59 (b-s, 1H), 4.94 (b-m, 0.5H), 4.77 (b-m, 0.5H), 3.64 (b-m, 2H), 3.21 (s, 1H), 2.39 (m, 1H), 1.75-2.0 (b-m, 3H), 1.46 (s, 3H), 1.21 (s, 6H).

reactant | 5-(2-Hydroxy-2-methyl-3-butynyl)-3-(1-tert-butyloxycarbonyl-2-pyrrolidinyl)pyridine | 1.5 mmol, 495 mg | OC(CC=1C=C(C=NC1)C1N(CCC1)C(=O)OC(C)(C)C)(C#C)C | C19H26N2O3
reactant | sodium hydride | 10 mg | [H-].[Na+]
reactant | toluene acetone | several milliliters | C1(=CC=CC=C1)C.CC(=O)C
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 5-ethynyl-3-(1-tert-butyloxycarbonyl-2-pyrrolidinyl)pyridine | 250 mg, 61% | C(#C)C=1C=C(C=NC1)C1N(CCC1)C(=O)OC(C)(C)C | C16H20N2O2
